US04800199
(6R-trans)-3-[(Acetyloxy)methyl]-8-oxo-7-[[4-[[(phenylmethyl)amino]carbonyl]-2-thiazolyl]amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 175 mg of (6R-trans)-3-[(acetyloxy)methyl]-8-oxo-7-[[4-[[(phenylmethyl)amino]carbonyl]-2-thiazolyl]amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester, trifluoroacetic acid and anisole in dichloromethane was stirred for 45 minutes. The addition of dichloromethane, ether and petroleum ether caused precipitation. The solid was collected and washed with ether and petroleum ether, giving 105 mg of the desired product.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-8-oxo-7-[[4-[[(phenylmethyl)amino]carbonyl]-2-thiazolyl]amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 175 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C(=O)NCC1=CC=CC=C1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C34H30N4O6S2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6R-trans)-3-[(Acetyloxy)methyl]-8-oxo-7-[[4-[[(phenylmethyl)amino]carbonyl]-2-thiazolyl]amino]-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 105 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC=C(N1)C(=O)NCC1=CC=CC=C1)=O)C(=O)O | C21H20N4O6S2
